US07915261B2
Tert-butyl 4-{2-[3-(aminocarbonyl)phenyl]ethyl}-1-piperidinecarboxylate (13.8 g) was dissolved in EtOAc (200 ml), and 4 M hydrogen chloride/EtOAc solution (130 ml) was added thereto, followed by stirring at room temperature for 4 hours, and then concentrated. Acetonitrile was added to the resulting residue, followed by heating, and the precipitated crystal was collected by filtration, washed with EtOAc, and dried under reduced pressure to obtain 3-[2-(4-piperidinyl)ethyl]benzamide hydrochloride (11.2 g).

reactant | Tert-butyl 4-{2-[3-(aminocarbonyl)phenyl]ethyl}-1-piperidinecarboxylate | 13.8 g | NC(=O)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O3
reactant | hydrogen chloride EtOAc | 4 M, 130 ml | Cl.CCOC(=O)C
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 3-[2-(4-piperidinyl)ethyl]benzamide hydrochloride | 11.2 g | Cl.N1CCC(CC1)CCC=1C=C(C(=O)N)C=CC1 | InChI=1S/C14H20N2O.ClH/c15-14(17)13-3-1-2-12(10-13)5-4-11-6-8-16-9-7-11;/h1-3,10-11,16H,4-9H2,(H2,15,17);1H
